US04613676
Z-Phe-His-Leu-Val-Ile-dicarbamoylmethyl amide
In a manner analogous to that described in Example 1, using as starting materials 82 mg of Z-Phe-His-OH, 64 mg of H-Leu-Val-Ile-dicarbamoylmethyl amide, 29 mg of HOBt and 45 mg of DCCI, the title compound is obtained after flash chromatography (65 g of silica gel 60, 40-63 μm, eluant system B9). Rf (B9)=0.37, Rf (B11)=0.46.

reactant | Z-Phe-His-OH | 82 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H24N4O5
reactant | H-Leu-Val-Ile dicarbamoylmethyl amide | 64 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O.C(N)(=O)C(C(N)=O)[NH-]
reactant | HOBt | 29 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 45 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Phe-His-Leu-Val-Ile dicarbamoylmethyl amide | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1=CC=CC=C1.C(N)(=O)C(C(N)=O)[NH-] | InChI=1S/C40H55N7O8.C3H6N3O2/c1-7-26(6)34(39(52)53)47-38(51)33(25(4)5)46-37(50)30(18-24(2)3)43-36(49)32(20-29-21-41-23-42-29)44-35(48)31(19-27-14-10-8-11-15-27)45-40(54)55-22-28-16-12-9-13-17-28;4-1(2(5)7)3(6)8/h8-17,21,23-26,30-34H,7,18-20,22H2,1-6H3,(H,41,42)(H,43,49)(H,44,48)(H,45,54)(H,46,50)(H,47,51)(H,52,53);1,4H,(H2,5,7)(H2,6,8)/q;-1/t26-,30-,31-,32-,33-,34-;/m0./s1
